US09084794B2
a) Methyl 3-(4-bromo-2-fluorophenyl)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)propanoate
A suspension of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (4.05 mmol) in dichloromethane (10 mL) was treated with 1N aq NaOH (10.00 mmol) and was allowed to stir for 1 h, during which time the organic layer turned clear. The organic layer was partitioned from the aqueous layer, which was subsequently extracted with dichloromethane four times. The dichloromethane layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo. This resulting residue was dissolved in dimethyl sulfoxide (7 mL) and was treated with 4-bromo-2-fluorobenzaldehyde (6.08 mmol), tert-butyl((1-methoxyvinyl)oxy)dimethylsilane (6.08 mmol) and trimethyl borate (8.11 mmol). The reaction was allowed to stir at room temperature for two days. At this point the reaction was slowly quenched with water (20 mL) and was stirred for one hour at room temperature. The solution was then extracted three times with ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by silica gel chromatography (0-7% methanol/dichloromethane). The fractions containing the desired product were selected and concentrated in vacuo. The resulting oil was taken up in ethyl acetate (100 mL) and was washed three times with 30% w/v aq ammonium hydroxide, washed with brine, dried over sodium sulfate, filtered and concentrated to dryness in vacuo. The resulting oil was taken up in dichloromethane and concentrated to dryness in vacuo again to afford the title compound as a clear oil (1.148 g, 57% yield). MS(ES)+ m/e 469.2/471.2 [M+H]+ (bromide isotope pattern).

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 4.05 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | NaOH | 10.00 mmol, 1N | [OH-].[Na+]
reactant | 4-bromo-2-fluorobenzaldehyde | 6.08 mmol | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | tert-butyl((1-methoxyvinyl)oxy)dimethylsilane | 6.08 mmol | C(C)(C)(C)[Si](C)(C)OC(=C)OC | C9H20O2Si
reactant | trimethyl borate | 8.11 mmol | B(OC)(OC)OC | C3H9BO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl 3-(4-bromo-2-fluorophenyl)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)propanoate | 1.148 g, 57% yield | BrC1=CC(=C(C=C1)C(CC(=O)OC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C21H26BrFN2O4
